US07087754B2
6-Amino-4-(2-furyl)-N-(2-pyridyl)-1H-pyrazolo[3,4-d]pyrimidin-1-ylacetamide (Example 29)
A solution of 6-amino-4-(2-furyl)-1H-pyrazolo[3,4-d]pyrimidin-1-ylacetic acid (200 mg, 0.77 mmol) in DMF (3 mL) was treated with carbonyl diimidazole (125 mg, 0.77 mmol), stirred at room temperature for 2 h, treated with 2-aminopyridine (72 mg, 0.77 mmol), heated to 50° C. for 3 h, cooled and diluted with water. The resulting white solid was filtered, suspended in MeOH, treated with HCl in dioxan (4-M, 1 mL) diluted with diethyl ether and filtered to give the title compound (187 mg, 59%) as a yellow solid.

reactant | 6-amino-4-(2-furyl)-1H-pyrazolo[3,4-d]pyrimidin-1-ylacetic acid | 0.77 mmol, 200 mg | NC1=NC(=C2C(=N1)N(N=C2)CC(=O)O)C=2OC=CC2 | C11H9N5O3
reactant | carbonyl diimidazole | 0.77 mmol, 125 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 2-aminopyridine | 0.77 mmol, 72 mg | NC1=NC=CC=C1 | C5H6N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-Amino-4-(2-furyl)-N-(2-pyridyl)-1H-pyrazolo[3,4-d]pyrimidin-1-ylacetamide | 187 mg, 59% | NC1=NC(=C2C(=N1)N(N=C2)CC(=O)NC2=NC=CC=C2)C=2OC=CC2 | C16H13N7O2
